US07723349B2
Step 5. Tetrahydro-2H-pyran-4-yl(6S,7S)-7-((hydroxyamino)carbonyl)-6-((4-phenylpiperazin-1-yl)carbonyl)-5-azaspiro(2,5)octane-5-carboxylate
Tetrahydro-2H-pyran-4-yl(6S,7S)-7-(((benzyloxy)amino)carbonyl)-6-((4-phenylpiperazin-1-yl)carbonyl)-5-azaspiro(2,5)octane-5-carboxylate (6.0 mg, 0.0104 mmole) was dissolved in methanol (0.3 ml) and 2 mg of 5% Pd/BaSO4 was added to the resulting reaction mixture. The mixture was stirred under hydrogen (1 atm) for 1.5 hours. After filtration, the product was purified with prep. RP-HPLC. The desired fractions were collected and freeze dried to give 3.8 mg solid. LC-MS: m/z 487.1 (M+H)+; 509.0 (M+Na)+.

reactant | Tetrahydro-2H-pyran-4-yl(6S,7S)-7-(((benzyloxy)amino)carbonyl)-6-((4-phenylpiperazin-1-yl)carbonyl)-5-azaspiro(2,5)octane-5-carboxylate | 0.0104 mmole, 6.0 mg | C(C1=CC=CC=C1)ONC(=O)[C@@H]1[C@H](N(CC2(CC2)C1)C(=O)OC1CCOCC1)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C32H40N4O6
solvent | methanol | 0.3 ml | CO | CH4O
catalyst | Pd BaSO4 | 2 mg | [Pd].[O-]S(=O)(=O)[O-].[Ba+2]
product | Tetrahydro-2H-pyran-4-yl(6S,7S)-7-((hydroxyamino)carbonyl)-6-((4-phenylpiperazin-1-yl)carbonyl)-5-azaspiro(2,5)octane-5-carboxylate | 3.8 mg | ONC(=O)[C@@H]1[C@H](N(CC2(CC2)C1)C(=O)OC1CCOCC1)C(=O)N1CCN(CC1)C1=CC=CC=C1 | C25H34N4O6
